US04518597
7-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 7-[4-(3,4-dichloro-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 7-[4-(3,4-dichloro-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C20H21Cl2NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 7-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)S(=O)CCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C20H21Cl2NO4S
